US07501425B1
1-Cyclopentyl-7-[4-(4-hydroxypiperidin-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one
Prepared from 60 mg (0.15 mmol) of 1-cyclopentyl-7-[4-(4-hydroxypiperidin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one and 66 mg (0.58 mmol) of potassium tert-butoxide in 1.5 mL of DMSO. The crude semi-solid residue is triturated in 15 mL of 2:1 diethyl ether/hexane, and the orange amorphous solid is collected and dried to leave 20 mg (30%) of the title compound: mp>185° C. (dec).

reactant | 1-cyclopentyl-7-[4-(4-hydroxypiperidin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.15 mmol, 60 mg | C1(CCCC1)N1C(NCC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCC(CC2)O)=O | C22H28N6O2
reactant | potassium tert-butoxide | 0.58 mmol, 66 mg | CC(C)([O-])C.[K+]
solvent | DMSO | 1.5 mL | CS(=O)C | C2H6OS
product | 1-Cyclopentyl-7-[4-(4-hydroxypiperidin-1-yl)phenylamino]pyrimido[4,5-d]pyrimidin-2(1H)-one | 20 mg, 30% | C1(CCCC1)N1C(N=CC=2C1=NC(=NC2)NC2=CC=C(C=C2)N2CCC(CC2)O)=O | C22H26N6O2
